US07601843B2
2-[1-(2-tert-Butyldiphenylsiloxyethyl)cyclohexyl]ethanol
tert-Butylchlorodiphenylsilane (34.4 mL, 0.132 mol) was added dropwise to a solution of 2-[1-(2-hydroxyethyl)cyclohexyl]ethanol (21.7 g, 0.126 mol) in methylene chloride (280 mL) while cooling on ice. After stirring the mixture for 14 hours at room temperature, 25% aqueous ammonium chloride (300 mL) was added and extraction was performed. The organic layer was washed with saturated aqueous sodium chloride, and then the organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (500 g Merck Art. 9385, hexane:ethyl acetate=4:1) to obtain the title compound as a colorless oil (36.8 g) (2 steps, 60% yield).

reactant | tert-Butylchlorodiphenylsilane | 0.132 mol, 34.4 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | 2-[1-(2-hydroxyethyl)cyclohexyl]ethanol | 0.126 mol, 21.7 g | OCCC1(CCCCC1)CCO | C10H20O2
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | methylene chloride | 280 mL | C(Cl)Cl | CH2Cl2
product | 2-[1-(2-tert-Butyldiphenylsiloxyethyl)cyclohexyl]ethanol | 36.8 g, 60% yield | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCC1(CCCCC1)CCO | C26H38O2Si
